US07547699B2
(5R,8aR)-1,1,5-Trimethyl-1,3,5,6,7,8,8a,9-octahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene
To a solution of 0.345 g (5R,8aR)-5-methyl-1-oxo-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene-7-carboxylic acid tert-butyl ester in 5 ml tetrahydrofuran was added at 0° C. 2.00 ml of a 2M solution of methylmagnesium bromide in diethyl ether. The mixture was stirred at 0° C. for 30 min and at room temperature for 1 h. The reaction mixture was partitioned between 10% aqueous ammonium chloride and ethyl acetate, the phases were separated and the organic phase was washed with 10% aqueous citric acid 10% aqueous sodium bicarbonate and brine dried over sodium sulfate and evaporated. The residue was taken up in 5 ml trifluoroacetic acid and kept at room temperature for 2 h. The solvent was evaporated and the residue was partitioned between water and ethyl acetate. The phases were separated and the aqueous phase was mixed with dichloromethane. The pH of the mixture was adjusted to 12.00 by addition of 2N aqueous sodium hydroxide. The phases were separated and the organic phase was washed with half concentrated brine dried over sodium sulfate and evaporated. The residue was purified by chromatography on silica gel with dichloromethane:methanol:ammonia; 90:10:1 to yield 0.18 g of the title compound as slightly yellow oil (MS: 260.2 (M+H+))

reactant | (5R,8aR)-5-methyl-1-oxo-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene-7-carboxylic acid tert-butyl ester | 0.345 g | C(C)(C)(C)OC(=O)N1C[C@H](N2C=3N=C4C(=CC3C[C@@H]2C1)C(OC4)=O)C | C18H23N3O4
reactant | methylmagnesium bromide | C[Mg]Br
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (5R,8aR)-1,1,5-Trimethyl-1,3,5,6,7,8,8a,9-octahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene | 0.18 g | CC1(OCC=2C1=CC=1C[C@@H]3CNC[C@H](N3C1N2)C)C | C15H21N3O
